US04207413
1,3,4,6-Tetra-O-benzyl-β-L-fructofuranosyl 2,3,4,6-Tetra-O-benzyl-α-L-glucopyranoside (Octa-O-benzyl-L-sucrose)
A suspension of molecular sieves (type 3A, 2.5 g.) and silver carbonate (0.5 g.) in a solution of 1,3,4,6-tetra-O-benzyl-L-fructofuranose (0.5 g.) in dry benzene (3 ml.) was stirred under nitrogen, in the dark, at room temperature, for 10 minutes. Silver perchlorate (50 mg.) which had been dried by evaporating dry benzene from the salt was added to the mixture, stirring being continued. A solution of 2,3,4,6-tetra-O-benzyl-L-glucopyranosyl chloride, prepared as previously described from 0.5 g. of 2,3,4,6-tetra-O-benzyl-α-L-glucopyranose, in dry benzene (10 ml.), was then added dropwise over a period of 10 minutes. Within 10 minutes of the final addition, t.l.c. (benzene/diethyl ether 6:1) revealed the presence of two new components having mobilities of 0.84 and 0.8 compared to the mobility of the glycosyl halide, whereas the fructose derivative had a mobility of 0.46 and 2,3,4,6-tetra-O-benzyl-α-L-glucopyranose had a mobility of 0.26. The reaction was monitored continuously by t.l.c. and after 42 hours, as no glycosyl chloride could be detected, the reaction mixture was filtered through a pad of Celite® and decolorizing charcoal. The residue was washed several times with dry benzene, and the combined filtrate concentrated at reduced pressure to a syrup (0.954 g.). The syrup was placed on a column of silica gel [200 g., prepacked in dichloromethane and treated with benzene (50 ml.) prior to use] and eluted with a 6:1 mixture of benzene and ether. The fractions containing the two faster components were combined and evaporated under reduced pressure to a syrup (0.342 g.) which was placed on a second column (150 g.) and eluted with a 25:1 mixture of benzene and ether in an attempt to separate the two components. This separation procedure yielded two chromatographically homogeneous components, the faster moving compound (72 mg.) having a mobility (t.l.c., benzene/diethyl ether 6:1 v/v) equal to that of previously prepared octa-O-benzyl-D-sucrose.

reactant | 1,3,4,6-tetra-O-benzyl-L-fructofuranose | 0.5 g | C(C1=CC=CC=C1)OCC1(O)[C@H](OCC2=CC=CC=C2)[C@@H](OCC2=CC=CC=C2)[C@@H](O1)COCC1=CC=CC=C1 | C34H36O6
reactant | 2,3,4,6-tetra-O-benzyl-α-L-glucopyranose | C(C1=CC=CC=C1)O[C@@H]1[C@H](O)O[C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C34H36O6
reactant | benzene diethyl ether | C1=CC=CC=C1.C(C)OCC
reactant | fructose | OCC(=O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
solvent | benzene | 3 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
catalyst | silver carbonate | 0.5 g | C([O-])([O-])=O.[Ag+2]
product | 1,3,4,6-Tetra-O-benzyl-β-L-fructofuranosyl 2,3,4,6-Tetra-O-benzyl-α-L-glucopyranoside | C(C1=CC=CC=C1)O[C@@H]1[C@H](O[C@]2(COCC3=CC=CC=C3)[C@H](OCC3=CC=CC=C3)[C@@H](OCC3=CC=CC=C3)[C@@H](O2)COCC2=CC=CC=C2)O[C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C68H70O11
